US06858627B2
4-Allylsulfanylmethyl-6-(5-isopropyl-2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline
Trifluoromethanesulfonic acid 2,2,4-trimethyl-1,2-dihydroquinolin-6-yl ester was coupled with 5-isopropyl-2-methoxyphenylboronic acid. Bromination and coupling reaction with allyl mercaptan gave 25 mg of the title compound.

reactant | Trifluoromethanesulfonic acid 2,2,4-trimethyl-1,2-dihydroquinolin-6-yl ester | CC1(NC2=CC=C(C=C2C(=C1)C)OS(=O)(=O)C(F)(F)F)C | C13H14F3NO3S
reactant | 5-isopropyl-2-methoxyphenylboronic acid | C(C)(C)C=1C=CC(=C(C1)B(O)O)OC | C10H15BO3
reactant | allyl mercaptan | C(C=C)S | C3H6S
product | 4-Allylsulfanylmethyl-6-(5-isopropyl-2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline | 25 mg | C(C=C)SCC1=CC(NC2=CC=C(C=C12)C1=C(C=CC(=C1)C(C)C)OC)(C)C | C25H31NOS
